* LM7805 model. 
* No need to use .inc - I've set the .asy symbol to remove the need for .inc.
* (I used the symbol of LT1084, just replaced the LT1084 by LMxxxx and LTC.LIB by regulators.lib) 

.SUBCKT LM7805  1    2    3
* In GND Out
QT6          23  10  2   Q_NPN 0.1
QT7          5   4   10  Q_NPN 0.1
QT5          7   6   5   Q_NPN 0.1
QT1          1   9   8   Q_NPN 0.1
QT3          11  8   7   Q_NPN 0.1
QT2          11  13  12  Q_NPN 0.1
QT17         1   15  14  Q_NPN 10
C2           10  23      4P
R16          12  5       500
R12          16  2       12.1K
QT18         17  23  16  Q_NPN 0.1
D1           18  19  	 D_D 
R11          20  21      850
R5           22  3       100
QT14         24  18  2   Q_NPN 0.1
R21          6   2       2.67K
R20          3   6       640
DZ2          25  26      D_5V1 
R19          1   26      16K
R18          14  3       250M
R17          25  14      380
R15          25  15      1.62K
QT16         1   20  15  Q_NPN 1
QT15         2   24  21  Q_PNP 0.1
*OFF
R14          21  24      4K
C1           27  24      20P
R13          19  2       4K
QT13         24  27  18  Q_NPN 0.1
QT12         20  25  22  Q_NPN 1 
*OFF
QT11         20  28  2   Q_NPN 0.1
*OFF
QT10         20  11  1   Q_PNP 0.1
R10          17  27      16.5K
R9           5   4       1.9K
R8           4   23      26
R7           10  2       1.2K
R6           29  2       1K
QT9          11  11  1   Q_PNP 0.1
QT8          27  16  29  Q_NPN 0.1
QT4          15  6   17  Q_NPN 0.1
DZ1          2   9       D_5V6
R4           1   9       80K
R3           28  2       830
R2           13  28      4.97K
R1           8   13      7K

.MODEL D_5V1 D( IS=10F N=1.16 BV=5.1 IBV=0.5M CJ0 = 1P TT = 10p )
.MODEL D_5V6 D( IS=10F N=1.16 BV=5.6 IBV=5U CJ0 = 1P TT = 10p )
.MODEL Q_NPN NPN( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+       TF=10P TR=1N )
.MODEL Q_PNP PNP( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+      TF=10P TR=1N )
.MODEL D_D D( IS=1F N=1.16 CJ0 = 1P TT = 10p )

.ENDS LM7805

* Pinouts are the same as 7805.

.SUBCKT LM7812  1    2    3
QT6          23  10  2   Q_NPN 0.1
QT7          5   4   10  Q_NPN 0.1
QT5          7   6   5   Q_NPN 0.1
QT1          1   9   8   Q_NPN 0.1
QT3          11  8   7   Q_NPN 0.1
QT2          11  13  12  Q_NPN 0.1
QT17         1   15  14  Q_NPN 10
C2           10  23      4P
R16          12  5       500
R12          16  2       12.1K
QT18         17  23  16  Q_NPN 0.1
D1           18  19  	 D_D 
R11          20  21      850
R5           22  3       100
QT14         24  18  2   Q_NPN 0.1
R21          6   2       2.67K
R20          3   6       5.22K
DZ2          25  26      D_5V1 
R19          1   26      16K
R18          14  3       250M
R17          25  14      380
R15          25  15      1.62K
QT16         1   20  15  Q_NPN 1
QT15         2   24  21  Q_PNP 0.1 
*OFF
R14          21  24      4K
C1           27  24      20P
R13          19  2       4K
QT13         24  27  18  Q_NPN 0.1
QT12         20  25  22  Q_NPN 1 
*OFF
QT11         20  28  2   Q_NPN 0.1
*OFF
QT10         20  11  1   Q_PNP 0.1
R10          17  27      16.5K
R9           5   4       1.9K
R8           4   23      26
R7           10  2       1.2K
R6           29  2       1K
QT9          11  11  1   Q_PNP 0.1
QT8          27  16  29  Q_NPN 0.1
QT4          15  6   17  Q_NPN 0.1
DZ1          2   9       D_5V6
R4           1   9       80K
R3           28  2       830
R2           13  28      4.97K
R1           8   13      7K

.MODEL D_5V1 D( IS=10F N=1.16 BV=5.1 IBV=0.5M CJ0 = 1P TT = 10p )
.MODEL D_5V6 D( IS=10F N=1.16 BV=5.6 IBV=5U CJ0 = 1P TT = 10p )
.MODEL Q_NPN NPN( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+       TF=10P TR=1N )
.MODEL Q_PNP PNP( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+      TF=10P TR=1N )
.MODEL D_D D( IS=1F N=1.16 CJ0 = 1P TT = 10p )

.ENDS LM7812

* Pinouts are the same as '05

.SUBCKT LM7815  1    2    3
QT6          23  10  2   Q_NPN 0.1
QT7          5   4   10  Q_NPN 0.1
QT5          7   6   5   Q_NPN 0.1
QT1          1   9   8   Q_NPN 0.1
QT3          11  8   7   Q_NPN 0.1
QT2          11  13  12  Q_NPN 0.1
QT17         1   15  14  Q_NPN 10
C2           10  23      4P
R16          12  5       500
R12          16  2       12.1K
QT18         17  23  16  Q_NPN 0.1
D1           18  19  	 D_D 
R11          20  21      850
R5           22  3       100
QT14         24  18  2   Q_NPN 0.1
R21          6   2       2.67K
R20          3   6       7.18K
DZ2          25  26      D_5V1 
R19          1   26      16K
R18          14  3       250M
R17          25  14      380
R15          25  15      1.62K
QT16         1   20  15  Q_NPN 1
QT15         2   24  21  Q_PNP 0.1 
*OFF
R14          21  24      4K
C1           27  24      20P
R13          19  2       4K
QT13         24  27  18  Q_NPN 0.1
QT12         20  25  22  Q_NPN 1 
*OFF
QT11         20  28  2   Q_NPN 0.1
*OFF
QT10         20  11  1   Q_PNP 0.1
R10          17  27      16.5K
R9           5   4       1.9K
R8           4   23      26
R7           10  2       1.2K
R6           29  2       1K
QT9          11  11  1   Q_PNP 0.1
QT8          27  16  29  Q_NPN 0.1
QT4          15  6   17  Q_NPN 0.1
DZ1          2   9       D_5V6
R4           1   9       80K
R3           28  2       830
R2           13  28      4.97K
R1           8   13      7K

.MODEL D_5V1 D( IS=10F N=1.16 BV=5.1 IBV=0.5M CJ0 = 1P TT = 10p )
.MODEL D_5V6 D( IS=10F N=1.16 BV=5.6 IBV=5U CJ0 = 1P TT = 10p )
.MODEL Q_NPN NPN( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+       TF=10P TR=1N )
.MODEL Q_PNP PNP( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+      TF=10P TR=1N )
.MODEL D_D D( IS=1F N=1.16 CJ0 = 1P TT = 10p )

.ENDS LM7815


* Identical.

.SUBCKT LM7905  1    2    3            

DD4           4   5   D_6V3_0 
DD2           6   2   D_3V9_0 
DD1           7   2   D_4V7_0 
DD3           8   3   D_6V3_0 
C2            9  10  5P
C1            2   9  15P
QTU15         10   9   3   Q_PNP_0 1.000
R17          11  12  4.2K
QTU22          3  10  13   Q_NPN_0 3.000
R18           8   5  15.65K
R20          13  14  1K
R19           4  14  75
QTU31         12  11   4   Q_NPN_1 1.000
R16          15   1  160
R24          16   1  1.8K
C3           17   1  10P
QTU30         18  12  15   Q_NPN_1 1.000
QTU29         10  16   1   Q_NPN_1 1.000
R15          19   1  400
QTU28         10  20  19   Q_NPN_1 1.000
R14          21   1  200
QTU27         17  20  21   Q_NPN_1 1.000
R11          22  23  1K
R10          24  25  1K
QTU19         18  27  26   Q_NPN_1 1.000
R9            2  18  7.1K
QTU8          16  18   2   Q_PNP_0 1.000
QTU7          28  18   2   Q_PNP_0 1.000
QTU6          18  18   2   Q_PNP_0 1.000
QTU5          11  29   2   Q_PNP_0 1.000
QTU4          20  29   2   Q_PNP_0 1.000
QTU3           1  29   2   Q_PNP_0 1.000
QTU2           1  29   2   Q_PNP_0 1.000
R13          28   1  400
R12          30   1  400
QTU18         29  29  31   Q_NPN_1 1.000
QTU1          29  29   2   Q_PNP_0 1.000
R6           31  32  6.5K
R7           32  27  5.6K
R8           27  26  950
QTU10         33   6  26   Q_PNP_0 1.000
QTU17         34  35  33   Q_PNP_0 1.000
R5           36   1  2K
QTU24         34  34  36   Q_NPN_1 1.000
R1           37   6  6.3K
R2           37  38  670
R3           38  35  550
QTU9          38  35   6   Q_PNP_0 1.000
R4           39   1  2K
QTU23         35  34  39   Q_NPN_1 1.000
QTU16          1   7  35   Q_PNP_0 1.000
JT1           7   1   1  J_2N3458_N 
QTU14          3  17  23   Q_PNP_0 1.000
QTU13         17  17  23   Q_PNP_0 1.000
QTU12         17  17  25   Q_PNP_0 1.000
QTU11          9  17  25   Q_PNP_0 1.000
QTU32          3  13  14   Q_NPN_2 10.000
QTU26          9  20  28   Q_NPN_1 1.000
QTU25         20  20  30   Q_NPN_1 1.000
QTU21          2  40  22   Q_NPN_1 1.000
QTU20          2  37  24   Q_NPN_1 1.000
R21           2  40  4.29K
R22          40   3  500
R23          14   1  500M

.MODEL J_2N3458_N NJF( VTO=-3.05 BETA=699.53U LAMBDA=6M RD=1 RS=1 
+      CGD=2.81P CGS=2.91P M=227.1M PB=500M IS=114.41F 
+      VTOTC=-2.5M BETATCE=-500M KF=0 AF=1 )
.MODEL D_6V3_0  D( IS=10F N=1.24 BV=6.3 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_3V9_0  D( IS=10F N=1.24 BV=3.9 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_4V7_0  D( IS=10F N=1.24 BV=4.7 IBV=1M CJ0 = 1P TT = 10p )
.MODEL Q_PNP_0  PNP( IS=10F NF=1.04 NR=1.04 BF=50 CJC=1P CJE=2P
+      TF=10P TR=1N VAF=45)
.MODEL Q_NPN_0  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_1  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_2  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.ENDS LM7905

* Identical but PIN 2 is now ADJUST instead of GND.
* LM117 seems to be the same model.

.SUBCKT LM317    1    2    3
D4            4   3  D_Z6V0
D3            5   6  D_Z6V3
D2            7   1  D_Z6V3
D1            3   8  D_Z6V3
QT26          1  10   9  Q_NPN 20.0
QT25          1  11  10  Q_NPN 2.0
QT24_2       13  12   5  Q_NPN 0.1
QT24         13  12  14  Q_NPN 0.1
QT23         17  16  15  Q_NPN 1.0
QT21         19  18   3  Q_NPN 0.1
QT19         21   3  20  Q_NPN 1.0
QT17         23   3  22  Q_NPN 0.1
QT13          1  25  24  Q_NPN 0.1
QT11         16  27  26  Q_NPN 0.1
QT7          30  29  28  Q_NPN 0.1
QT5          29  31   3  Q_NPN 0.1
QT3          33  31  32  Q_NPN 0.1
QT22_2       17  17   1  Q_PNP 1.0
QT22         16  17   1  Q_PNP 1.0
QT20          3  19  16  Q_PNP 0.1
QT18         21  21  16  Q_PNP 0.1
QT16         23  21  16  Q_PNP 0.1
QT15          3  23  25  Q_PNP 0.1
QT12          3  24  16  Q_PNP 0.1
QT9          27  30  34  Q_PNP 0.1
QT6           3  29  34  Q_PNP 0.1
QT14         25  33  35  Q_PNP 0.1
QT10         16  33  36  Q_PNP 0.1
QT8          34  33  37  Q_PNP 0.1
QT4          31  33  38  Q_PNP 0.1
QT2          33  33  39  Q_PNP 0.1
R27           4   2  50
R26           9   3  100M
R25           9  14  2
R24           5  14  160
R23           7   6  18K
R22          10   3  160
R21          12  13  400
R20          18  13  13K
R19          16  11  370
R18          15  10  130
R17          16  12  12K
C3           19  18  5P
R16          16  19  6.7K
R15          20  22  2.4K
R14          22   4  12K
C2           23   4  30P
C1           23   3  30P
R13          24   3  5.1K
R12          26   3  72
R11          27   3  5.8K
R10          28   3  4.1K
R9           32   3  180
R8           34  30  12.4K
R7           31  29  130
R6            8  31  100K
R5            1  35  5.6K
R4            1  36  82
R3            1  37  190
R2            1  38  310
R1            1  39  310
JT1           1   3   8  J_N

.MODEL D_Z6V0 D( IS=10F N=1.04 BV=6.0 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_Z6V3 D( IS=10F N=1.04 BV=6.3 IBV=1M CJ0 = 1P TT = 10p )
.MODEL Q_NPN NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_PNP PNP( IS=10F NF=1.04 NR=1.04 BF=50 CJC=1P CJE=2P
+      TF=10P TR=1N VAF=45)
.MODEL J_N NJF( VTO=-7 )

.ENDS LM117
